US08492548B2
Polymer-Supported DiCyclohexylCarbodiimide (PS-DCC) (972 mg, 1.29 mmol, loading: 1.33 mmol/g) was suspended in dry tetrahydrofuran (10 ml). 2-(3-fluorophenyl)-2-(3,4,5-trifluorophenylamino)acetic acid hydrochloride (I42) (217 mg, 0.65 mmol), HOBT (198 mg, 1.29 mmol), and (R)-quinuclidin-3-ol (247 mg, 1.94 mmol) were added, and the mixture was shaken at r.t. for 16 hours. PS-DCC was filtered off, the filtrate was evaporated and the residue was dissolved in EtOAc and washed with NaHCO3, water and brine. The organic layer was dried over Na2SO4, filtered and evaporated. The resulting crude compound was purified by filtration through a pad of silica-gel eluting with DCM/MeOH=93/7. The resulting white foam was dissolved in DCM and passed through an Isolute PE-AX cartridge (5 g, 0.6 mmol/g, DCM/MeOH=9/1) to obtain (R)-quinuclidin-3-yl 2-(3-fluorophenyl)-2-(3,4,5-trifluorophenylamino)acetate (264 mg, 32% yield).

reactant | DiCyclohexylCarbodiimide | 1.29 mmol, 972 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2-(3-fluorophenyl)-2-(3,4,5-trifluorophenylamino)acetic acid hydrochloride | 0.65 mmol, 217 mg | Cl.FC=1C=C(C=CC1)C(C(=O)O)NC1=CC(=C(C(=C1)F)F)F
reactant | HOBT | 1.29 mmol, 198 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 1.94 mmol, 247 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(3-fluorophenyl)-2-(3,4,5-trifluorophenylamino)acetate | 264 mg, 32% yield | FC=1C=C(C=CC1)C(C(=O)O[C@H]1CN2CCC1CC2)NC2=CC(=C(C(=C2)F)F)F | C21H20F4N2O2
